US04636501
17 g of N-(2-((2-hydroxy-3-(4-hydroxyphenoxy)propyl)amino)ethyl)-4-morpholinecarboxamide and 6 g of 2-methoxyethyl mesylate and 6.9 g of K2CO3 was refluxed in acetonitril for 20 h. The resulting mixture was filtered and evaporated. The residue was dissolved in methylene chloride and extracted with water containing 1 g of NaOH, then with water and then dried over Na2SO4, filtered and evaporated. The residue was crystallized from ethyl acetate yielding N-(2-((2-hydroxy-3-(4-(2-methoxyethoxy)phenoxy)propyl)amino)ethyl)-4-morpholinecarboxamide. Melting point 69° C. (base).

reactant | N-(2-((2-hydroxy-3-(4-hydroxyphenoxy)propyl)amino)ethyl)-4-morpholinecarboxamide | 17 g | OC(CNCCNC(=O)N1CCOCC1)COC1=CC=C(C=C1)O | C16H25N3O5
reactant | 2-methoxyethyl mesylate | 6 g | S(C)(=O)(=O)OCCOC | C4H10O4S
reactant | K2CO3 | 6.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitril | C(C)#N | C2H3N
product | N-(2-((2-hydroxy-3-(4-(2-methoxyethoxy)phenoxy)propyl)amino)ethyl)-4-morpholinecarboxamide | OC(CNCCNC(=O)N1CCOCC1)COC1=CC=C(C=C1)OCCOC | C19H31N3O6
